US08729274B2
A mixture of trans-2-benzyl-7-bromo-6-chloro-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole (0.704 mmol, 275 mg), sodium methoxide (8.75 mmol, 2 ml, 1890 mg), copper(I) bromide (0.352 mmol, 51.5 mg) and ethyl acetate (0.699 mmol, 69 μl, 62.2 mg) in MeOH (2 ml) was heated in a microwave reactor at 120° C. for 0.5 h. The reaction mixture was partitioned between DCM and water and the aqueous was further extracted with DCM. The combined organic extracts were dried over Na2SO4 and concentrated in vacuo before being purified by silica column chromatography (eluting with neat DCM—5% MeOH in DCM) to afford the trans-2-benzyl-6-chloro-7-methoxy-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole (26.4 mg), m/z=342.2, 344.2 [M+H]+.

reactant | trans-2-benzyl-7-bromo-6-chloro-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole | 0.704 mmol, 275 mg | C(C1=CC=CC=C1)N1C[C@]2(CCC3=C([C@@H]2C1)C=CC(=C3Cl)Br)C | C20H21BrClN
reactant | sodium methoxide | 8.75 mmol, 2 ml, 1890 mg | C[O-].[Na+]
reactant | ethyl acetate | 0.699 mmol, 69 μl, 62.2 mg | C(C)(=O)OCC | C4H8O2
solvent | MeOH | 2 ml | CO | CH4O
catalyst | copper(I) bromide | 0.352 mmol, 51.5 mg | [Cu]Br
product | trans-2-benzyl-6-chloro-7-methoxy-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole | 26.4 mg | C(C1=CC=CC=C1)N1C[C@]2(CCC3=C([C@@H]2C1)C=CC(=C3Cl)OC)C | C21H24ClNO
